US05047554
A 2.00 g (12.69 mmoles) sample of 3-methoxy-2-thiophenecarboxylic acid (prepared according to Gronowitz, S., Arkiv. for Kemi. 12:239 (1958)) was reacted with 10 ml of thionyl chloride according to Example 32. Evaporation of excess thionyl chloride left 2.17 g of 3-methoxy-2-thiophenecarbonyl chloride as a crystalline solid, m.p. 86°-88° C. The acid chloride was coupled to 2.16 g (10.24 mmoles) of 5-chloro-2-oxindole-1-carboxamide in the presence of 3.30 g (27 mmoles) 4-(N,N-dimethylamino)pyridine according to the procedure in Example 32. Aqueous acid quench followed by filtration gave a yellow solid which was purified by recrystallization to give 1.04 g (2.96 mmoles, 29% yield) of 5-chloro-3-(3-methoxy-2-thenoyl)-2-oxindole-1-carboxamide as a yellow solid, m.p. 272°-274° C. (acetic acid).

reactant | 3-methoxy-2-thiophenecarboxylic acid | COC1=C(SC=C1)C(=O)O | C6H6O3S
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-chloro-2-oxindole-1-carboxamide | 10.24 mmoles, 2.16 g | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
catalyst | 4-(N,N-dimethylamino)pyridine | 27 mmoles, 3.30 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-chloro-3-(3-methoxy-2-thenoyl)-2-oxindole-1-carboxamide | 2.96 mmoles, 1.04 g, 29% yield | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)C(C1=C(C=CS1)OC)=O | C15H11ClN2O4S
